US04500343
To a solution of 7 g of 4-chloro-N-[5-(1,1-dimethylethyl)-3-isoxazolyl]-2-methylbutanamide in 10 ml of ethanol was added 2 g of powdered potassium hydroxide in 5 ml water and 5 ml ethanol. The mixture was refluxed for 30 minutes, cooled and poured into 40 ml water. A gummy solid was collected by filtration and recrystallized from pentane to afford 1-[5-(1,1-dimethylethyl)-3-isoxazolyl]-3-methyl-2-pyrrolidinone as a solid. mp 89°-90° C.

reactant | 4-chloro-N-[5-(1,1-dimethylethyl)-3-isoxazolyl]-2-methylbutanamide | 7 g | ClCCC(C(=O)NC1=NOC(=C1)C(C)(C)C)C | C12H19ClN2O2
reactant | potassium hydroxide | 2 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 1-[5-(1,1-dimethylethyl)-3-isoxazolyl]-3-methyl-2-pyrrolidinone | CC(C)(C)C1=CC(=NO1)N1C(C(CC1)C)=O | C12H18N2O2
